US08357694B2
(S)-6-(4-chlorophenyl)-N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-methylcyclohexanamine and triethylamine as described in general procedure 2 to give a yellow solid. M.p.=159-162° C. 1H NMR 400 MHz (DMSO-d6) δ 9.96 (s, br, 1H), 9.59 (s, 1H), 8.28 (m, 2H), 7.78 (d, J=8.4 Hz, 2H), 7.49-7.43 (m, 2H), 7.30 (m, 2H), 7.23 (d, J=8.8 Hz, 4H), 7.09 (m, 4H), 4.41 (t, J=6.0 Hz, 1H), 3.29-2.94 (m, 8H), 2.72 (d, J=5.2 Hz, 3H), 2.03-1.10 (m, 10H). LCMS m/e 523 (M+H).

reactant | (S)-4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | N-methylcyclohexanamine | CNC1CCCCC1 | C7H15N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(4-chlorophenyl)-N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=CC=C(C=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN(C)C2CCCCC2 | InChI=1S/C33H35ClN4.ClH/c1-38(28-7-3-2-4-8-28)20-19-23-11-17-27(18-12-23)36-33-35-22-25-21-31(24-13-15-26(34)16-14-24)29-9-5-6-10-30(29)32(25)37-33;/h5-6,9-18,22,28,31H,2-4,7-8,19-21H2,1H3,(H,35,36,37);1H/t31-;/m0./s1
